US05001137
To a suspension of 1.3 g of 60% sodium hydride in 20 ml of toluene is added 5.1 g of 2-oxopyrrolidine, followed by addition of 7.4 g of 2-chloro-3-(4-methoxybenzoyl)pyridine. The mixture is stirred at 50° C. for 1 hour. After the reaction mixture is poured into water, the toluene layer is washed with water and the solvent thereof is distilled off. The residue is recrystallized from a mixed solvent of isopropyl ether and ethyl acetate to give 3-(4-methoxybenzoyl)-2-(2-oxopyrrolidin-1-yl)pyridine, m.p. 76°-77° C.

reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | 2-oxopyrrolidine | 5.1 g | O=C1NCCC1 | C4H7NO
reactant | 2-chloro-3-(4-methoxybenzoyl)pyridine | 7.4 g | ClC1=NC=CC=C1C(C1=CC=C(C=C1)OC)=O | C13H10ClNO2
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-methoxybenzoyl)-2-(2-oxopyrrolidin-1-yl)pyridine | COC1=CC=C(C(=O)C=2C(=NC=CC2)N2C(CCC2)=O)C=C1 | C17H16N2O3
